US06825208B2
6-(3-Phenoxy-phenyl)-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridine-3-carboxamidine.
4-amino-benzamidine mono HCl salt (17.2 mg, 0.1 mmole) was suspended in acetonitrile (1 mL). The suspension was treated with 3-phenoxybenzaldehyde (19.8 mg, 0.1 mmole) and 1,2-dihydronapthalene(13.0 mg, 0.1 mmole). Indium triflate (11 mg, 0.02 mmole) was added and the reaction was heated at 70° C. for 48 hours. The desired products were purified using reverse phase HPLC. Mass spectrum: 446 (M+1).

reactant | 4-amino-benzamidine mono HCl salt | 0.1 mmole, 17.2 mg | Cl.NC1=CC=C(C(=N)N)C=C1
reactant | 3-phenoxybenzaldehyde | 0.1 mmole, 19.8 mg | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 1,2-dihydronapthalene | 0.1 mmole, 13.0 mg | C1CC=CC2=CC=CC=C12 | C10H10
reactant | Indium triflate | 0.02 mmole, 11 mg | [O-]S(=O)(=O)C(F)(F)F.[In+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-(3-Phenoxy-phenyl)-5,6,6a,7,8,12b-hexahydro-benzo[k]phenanthridine-3-carboxamidine | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1NC=2C=C(C=CC2C2C3=C(CCC12)C=CC=C3)C(=N)N | C30H27N3O
